US06740670B2
Benzyl 2-benzyloxy-5-formylbenzoate
Benzyl bromide (25.6 mL, 0.22 mol, 2.5 eq) was added dropwise to a stirred solution of 5-formylsalicylic acid (10 g, 0.06 mol, 1 eq) and cesium carbonate (84.2 g, 0.26 mol, 3 eq) in N,N-dimethylformamide (150 mL). The reaction mixture was stirred for 3 days and concentrated in vacuo. The residue was dissolved in ethyl acetate (200 mL) and the organic solution washed with water (200 mL) and brine (4×200 mL), then dried over sodium sulfate and evaporated in vacuo. This gave a gummy solid which was recrystallized from ethyl acetate and petroleum ether to give a cream coloured powder (16.1 g, 77%). RF (petroleum ether:ethyl acetate 1:1) 0.73. 1H NMR (CDCl3) δ9.91 (s, 1H, O═C—H), 5.38 (s, 2H, CH2Ph), 5.28 (s, 2H, CH2Ph).

reactant | Benzyl bromide | 0.22 mol, 25.6 mL, 2.5 eq | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 5-formylsalicylic acid | 0.06 mol, 10 g, 1 eq | C(=O)C1=CC=C(C(C(=O)O)=C1)O | C8H6O4
reactant | cesium carbonate | 0.26 mol, 84.2 g, 3 eq | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | Benzyl 2-benzyloxy-5-formylbenzoate | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=C(C=C1)C=O | C22H18O4
